US05686445
N-[4-[(2-Chloro-6,11-dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]2,4-dichlorobenzamide
As described for Example 136, a mixture of 0.349 g of 2-chloro-5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine, 0.131 g of triethylamine and 0.272 g of 2,4-dichlorobenzoyl chloride in 13 ml of dichloromethane is stirred at room temperature for 3 hours. Work-up gives a solid which is crystallized from dichloromethane-hexane to give 0.43 g of crystals, m.p. 199°-201° C.

reactant | 2-chloro-5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 0.349 g | ClC1=CC2=C(N(CC3=C(C2)C=CC=C3)C(C3=CC=C(C=C3)N)=O)C=C1 | C21H17ClN2O
reactant | triethylamine | 0.131 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichlorobenzoyl chloride | 0.272 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | dichloromethane | 13 ml | ClCCl | CH2Cl2
product | N-[4-[(2-Chloro-6,11-dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]2,4-dichlorobenzamide | 0.43 g | ClC1=CC2=C(N(CC3=C(C2)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=C(C=C3)Cl)Cl)=O)C=C1 | C28H19Cl3N2O2
